US09062032B2
To 20 mL of a dioxane solution including 2.0 g of 2-bromo-5-nitropyridine were added 1.58 g of methyl 4-ethynylbenzoate, 4.1 mL of N-isopropylpropan-2-amine and 281 mg of copper (I) iodide, and 504 mg of bis(tri-tert-butylphosphine)palladium(0) was further added thereto in an argon atmosphere, followed by stirring for 1 hour at room temperature. 50 ml of ethyl acetate was added to the reaction mixture, the precipitated insoluble material was collected by filtration, thereby obtaining 2.45 g of methyl 4-[(5-nitropyridin-2-yl)ethynyl]benzoate.

reactant | dioxane | 20 mL | O1CCOCC1 | C4H8O2
reactant | 2-bromo-5-nitropyridine | 2.0 g | BrC1=NC=C(C=C1)[N+](=O)[O-] | C5H3BrN2O2
reactant | methyl 4-ethynylbenzoate | 1.58 g | C(#C)C1=CC=C(C(=O)OC)C=C1 | C10H8O2
reactant | N-isopropylpropan-2-amine | 4.1 mL | C(C)(C)NC(C)C | C6H15N
catalyst | copper (I) iodide | 281 mg | [Cu]I
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 504 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | methyl 4-[(5-nitropyridin-2-yl)ethynyl]benzoate | 2.45 g | [N+](=O)([O-])C=1C=CC(=NC1)C#CC1=CC=C(C(=O)OC)C=C1 | C15H10N2O4
